US06225311B1
To a solution of 0.147 g (0.325 mmol) of the product of Example 58, 4-(4-but-2-ynyloxy-benzenesulfonyl)-3-hydroxycarbamoyl-piperazine-1-carboxylic acid tert-butyl ester, in 3.0 mL of dichloromethane was added 0.3 mL of trifluoroacetic acid and the reaction was stirred at room temperature for 1 h. The reaction was then concentrated in vacuo and the residue was diluted with dichloromethane. The organics were washed with saturated sodium bicarbonate solution, dried over sodium sulfate, filtered and concentrated in vacuo to provide 0.053 g of 1-(4-but-2-ynyloxy-benzenesulfonyl)-piperazine-2-carboxylic acid hydroxyamide as a tan solid. Electrospray Mass Spec 354.2 (M+H)+

reactant | 4-(4-but-2-ynyloxy-benzenesulfonyl)-3-hydroxycarbamoyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(N(CC1)S(=O)(=O)C1=CC=C(C=C1)OCC#CC)C(NO)=O | C20H27N3O7S
reactant | trifluoroacetic acid | 0.3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | 1-(4-but-2-ynyloxy-benzenesulfonyl)-piperazine-2-carboxylic acid hydroxyamide | 0.053 g | ONC(=O)C1N(CCNC1)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C15H19N3O5S
